US07501425B1
1-Isopropyl-7-{4-[4-(3-(morpholin-4-yl)propyl)piperidin-1-yl]phenylamino}-pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 100 mg (0.20 mmol) of 1-isopropyl-7-{4-[4-(3-(morpholin-4-yl)propyl)piperidin-1-yl]phenylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 88.5 mg (0.79 mmol) of potassium tert-butoxide in 10 mL of tetrahydrofuran. The reaction mixture is stirred overnight, 88.5 mg (0.79 mmol) of potassium tert-butoxide is added, and the reaction is continued for 48 hours. After the workup, the semi-solid is five times suspended in diethyl ether and rotovapped to dryness to give 87 mg (85%) of the title compound: mp>95° C. (dec).

reactant | 1-isopropyl-7-{4-[4-(3-(morpholin-4-yl)propyl)piperidin-1-yl]phenylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.20 mmol, 100 mg | C(C)(C)N1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCC(CC2)CCCN2CCOCC2)=O | C27H39N7O2
reactant | potassium tert-butoxide | 0.79 mmol, 88.5 mg | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.79 mmol, 88.5 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Isopropyl-7-{4-[4-(3-(morpholin-4-yl)propyl)piperidin-1-yl]phenylamino}-pyrimido[4,5-d]pyrimidin-2(1H)-one | 87 mg, 85% | C(C)(C)N1C(N=CC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCC(CC2)CCCN2CCOCC2)=O | C27H37N7O2
